* Z:\mnt\design.r\spice\examples\3880-1.asc
V1 IN 0 12
M§Q1 IN N002 N004 N004 RJK0305DPB
M§Q2 N004 N008 0 0 RJK0301DPB
L1 N004 OUT1 .56µ
C1 N005 N004 .1µ
D1 N001 N005 CMDSH2-3
C2 N010 OUT1 .22µ
R1 N004 N010 1.58K
C3 N012 0 2200p
C4 OUT1 0 530µ
R2 N014 N020 24.9K
R3 0 N014 11.3K
R4 N017 N018 10K
R5 N021 N017 4.99K
R6 N015 N020 10K
R7 0 N015 15.8K
R8 N016 N020 20K
R9 0 N016 12.7K
C5 N013 0 4700p
M§Q3 IN N003 N007 N007 RJK0305DPB
M§Q4 N007 N009 0 0 RJK0301DPB
L2 N007 OUT0 1µ
C6 N006 N007 .1µ
D2 N001 N006 CMDSH2-3
C7 N011 OUT0 .22µ
R10 N007 N011 2K
C8 OUT0 0 530µ
R11 N017 N019 10K
V2 N001 0 5
C9 N017 0 1µ
XU1 OUT0 0 N010 OUT1 N013 N011 OUT0 N021 MP_01 MP_02 MP_03 MP_04 MP_05 N019 N018 MP_06 N016 N015 N014 NC_07 0 N020 MP_08 MP_09 N017 N012 OUT1 MP_10 N004 N002 N005 N008 N001 0 IN N009 N006 N003 N007 MP_11 0 LTC3880-1
Rload0 OUT0 0 .22
Rload1 OUT1 0 .12
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 4.096V (CH0) and 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst,\n                      2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
.lib LTC3880-1.sub
.backanno
.end
